US04597902
N-[2-(Phenylsulfonyl)ethyl]benzeneethanamine, hydrochloride hemihydrate
A mixture of 70.23 g (0.344 mole) of 2-chloroethylphenylsulfone, 41.92 g (0.343 mole) of phenethylamine and 60 ml of triethylamine in 800 ml of acetonitrile was stirred at room temperature for 18 hr. The solvent was removed in vacuo, and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was dried over magnesium sulfate, and the solvent was removed in vacuo to give an oil. This was dissolved in methanol and excess to ethereal hydrogen chloride was added and ether was added. A white solid precipitated to give 68.39 g (60%) of white crystalline solid, m.p. 194°-196° C.

reactant | 2-chloroethylphenylsulfone | 0.344 mole, 70.23 g | ClCCS(=O)(=O)C1=CC=CC=C1 | C8H9ClO2S
reactant | phenethylamine | 0.343 mole, 41.92 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
reactant | ether | CCOCC | C4H10O
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | hydrogen chloride | Cl | ClH
product | N-[2-(Phenylsulfonyl)ethyl]benzeneethanamine, hydrochloride hemihydrate | 68.39 g, 60% | O.Cl.C1(=CC=CC=C1)S(=O)(=O)CCNCCC1=CC=CC=C1.C1(=CC=CC=C1)S(=O)(=O)CCNCCC1=CC=CC=C1.Cl | InChI=1S/2C16H19NO2S.2ClH.H2O/c2*18-20(19,16-9-5-2-6-10-16)14-13-17-12-11-15-7-3-1-4-8-15;;;/h2*1-10,17H,11-14H2;2*1H;1H2
